US04171365
A solution of 16.1 g (0.126 m) of 3,5-heptanedione in 50 ml of dimethylformamide was added during 15 minutes to a stirred suspension of 1.2 g of lithium hydride in 100 ml of dimethylformamide. The mixture was stirred one hour at room temperature and then a solution of 27.6 g (0.0619 m) of 1,4-bis(3-iodopropyloxy)benzene in 100 ml of dimethylformaide was added. The reaction mixture was heated at 60°-70° C. for about 16 hours and then concentrated in vacuo. The residue was distilled to remove volatiles (150° C., 0.05 mm) and chromatographed on 400 g of silica with chloroform:acetonitrile 95:5. The product was distilled at 250° C. (0.02 mm) and crystallized from ether to give 4.4 g of 1,4-bis(4,4-dipropionylbutyloxy)benzene, m.p. 57°-58° C.

reactant | 3,5-heptanedione | 16.1 g | CCC(CC(CC)=O)=O | C7H12O2
reactant | lithium hydride | 1.2 g | [H-].[Li+]
reactant | 1,4-bis(3-iodopropyloxy)benzene | 27.6 g | ICCCOC1=CC=C(C=C1)OCCCI | C12H16I2O2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1,4-bis(4,4-dipropionylbutyloxy)benzene | 4.4 g | C(CC)(=O)C(CCCOC1=CC=C(C=C1)OCCCC(C(CC)=O)C(CC)=O)C(CC)=O | C26H38O6
